US06515003B1
To a solution of 3-bromo-4-chlorobenzaldehyde (2.5 g, 11.39 mmol), (3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphtalen-2-yl)boronic acid (3.1 g, 12.53 mmol) in a mixture of toluene (25 mL), ethanol (5 mL) and water (4 ML) was added potassium carbonate (3.15 g, 22.78 mmol). The solution was degased with argon for 30 minutes. Tetrakis(triphenylphosphine)palladium(0) (0.26 g, 0.23 mmol) was added and the mixture heated at reflux under argon overnight. The solution was cooled to room temperature, diluted with ethyl acetate and washed successively with water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was chromatographed on silica gel (biotage: eluant:ethyl acetate/hexane, 5:95) to give 3.0 g of 4-chloro-3-(3,5,5,8,7-pentamethyl-5,6,7,8-tetrahydronaphtalen-2-yl)benzaldehyde (77%). 1H NMR (300 MHz; DMSO) 1.18 (s, 3H); 1.20 (s, 3H); 1.24 (s, 3H); 1.26 (s, 3H); 1.36 (s, 4H); 1.98 (s, 3H); 7.04 (s, 1H); 7.23 (s, 1H); 7.75 (d, J=7.8 Hz, 1H); 7.80 (d, J=1.8 Hz, 1H); 7.88 (dd, J1=7.8 Hz, J2=1.8 Hz, 1H); 9.99 (s, 1H).

reactant | 3-bromo-4-chlorobenzaldehyde | 11.39 mmol, 2.5 g | BrC=1C=C(C=O)C=CC1Cl | C7H4BrClO
reactant | (3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphtalen-2-yl)boronic acid | 12.53 mmol, 3.1 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)B(O)O | C15H23BO2
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | potassium carbonate | 22.78 mmol, 3.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.23 mmol, 0.26 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | 4-chloro-3-(3,5,5,8,7-pentamethyl-5,6,7,8-tetrahydronaphtalen-2-yl)benzaldehyde | 3.0 g, 77% | ClC1=C(C=C(C=O)C=C1)C1=CC=2C(C(CC(C2C=C1C)(C)C)C)C | C22H25ClO
